US04420615
A. N,N-Dimethyl-N'-(3-cyano-4,6-dimethyl-2-pyridyl)-1,2-diaminoethane
A mixture of 2-chloro-3-cyano-4,6-dimethylpyridine (10.0 g, 60 mmol) and N,N-dimethyl-1,2-diaminoethane (10.6 g, 120 mmol) is heated at 105° C. for 20 hours. Added benzene, evaporated to dryness, dissolved residue in water, made basic with sodium carbonate and extract product into methylene chloride, dried and evaporated to give 13.4 g of oily title A product.

reactant | 2-chloro-3-cyano-4,6-dimethylpyridine | 60 mmol, 10.0 g | ClC1=NC(=CC(=C1C#N)C)C | C8H7ClN2
reactant | N,N-dimethyl-1,2-diaminoethane | 120 mmol, 10.6 g | CN(CCN)C | C4H12N2
product | N,N-Dimethyl-N'-(3-cyano-4,6-dimethyl-2-pyridyl)-1,2-diaminoethane | CN(CCNC1=NC(=CC(=C1C#N)C)C)C | C12H18N4
